US05444071
Sodium hydride (60% dispersion in mineral oil; 1.95 g) was added to a stirred solution of a mixture of 7-chloro-2-ethyl-4-quinolone and 5-chloro-2-ethyl-4-quinolone (43.5:56.5, 10 g) in DMF (100 ml). The mixture was stirred until evolution of hydrogen had ceased and benzylbromide (8.25 g) was added. The mixture was stirred for 18 hours. The solvent was removed by evaporation and the residue partitioned between water (80 ml) and dichloromethane (2×100 ml). The organic layer was washed with saturated sodium chloride solution (50 ml) and dried (MgSO4). The solvent was removed by evaporation and the resultant yellow oil was purified by flash chromatography, eluting with increasing concentration of ethyl acetate in dichloromethane. The product was eluted with ethyl acetate/dichloromethane (10:90 v/v) to give 4-benzyloxy-5-chloro-2-ethylquinoline as a white solid (2.6 g), m.p. 78°-80° C.; NMR: 1.39(t,3H), 2.94(q,2H), 5.38(s,2H), 6.72(s,1 H), 7.30-7.55(m,6H), 8.0(d,1H), 8.13(d,1H).

reactant | Sodium hydride | 1.95 g | [H-].[Na+]
reactant | 7-chloro-2-ethyl-4-quinolone | ClC1=CC=C2C(CC(=NC2=C1)CC)=O | C11H10ClNO
reactant | 5-chloro-2-ethyl-4-quinolone | 10 g | ClC1=C2C(CC(=NC2=CC=C1)CC)=O | C11H10ClNO
reactant | hydrogen | [H][H] | H2
reactant | benzylbromide | 8.25 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxy-5-chloro-2-ethylquinoline | 2.6 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC=CC(=C12)Cl)CC | C18H16ClNO
